US05089504
Preparation of 3-isobutyryl-4-(4-fluoro-2-methylphenylamino)-8-(hydroxymethyl)quinoline
A solution of 3-isobutyryl-4-chloro-8-benzoyloxymethylquinoline (1.84 g, 5 mmol) and 4-fluoro-2-methylaniline (0.78 ml, 7 mmol) in dioxan (25 ml) was heated at reflux for 2 hours, then the solvent evaporated. A solution of sodium hydroxide (0.8 g, 20 mmol) in methanol (50 ml) was added and the mixture stirred at room temperature for 1.5 hours. The resulting precipitate was filtered off and recrystallized from methanol to give (0.48 g, 27%), m.p. 139°-140°.

reactant | 3-isobutyryl-4-chloro-8-benzoyloxymethylquinoline | 5 mmol, 1.84 g | C(C(C)C)(=O)C=1C=NC2=C(C=CC=C2C1Cl)COC(C1=CC=CC=C1)=O | C21H18ClNO3
reactant | 4-fluoro-2-methylaniline | 7 mmol, 0.78 ml | FC1=CC(=C(N)C=C1)C | C7H8FN
reactant | sodium hydroxide | 20 mmol, 0.8 g | [OH-].[Na+]
solvent | dioxan | 25 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 50 ml | CO | CH4O
product | 3-isobutyryl-4-(4-fluoro-2-methylphenylamino)-8-(hydroxymethyl)quinoline | C(C(C)C)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=C(C=C1)F)C)CO | C21H21FN2O2
